US07465825B2
Step 4. 4-[4′-(2-benzylbenzofuran-3-yl)biphen-4-yl]-4-oxobutyric acid
2N Hydrochloric acid (1 mL) was added to a stirred solution of 5-{2-[4′-(2-benzyl-benzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]-dioxane-4,6-dione (200 mg, 0.36 mmol) in THF (10 mL), and the resultant solution was heated at 70° C. for 6 hrs and then cooled to room temperature and concentrated in vacuo. The resulting solid was redissolved in DMSO (10 mL), and heated to 150° C. for 3 hrs before being cooled to room temperature, and diluted with water (20 mL), and extracted with ethyl acetate (3×20 mL). The combined extract was washed with water (2×10 mL), brine (3×10 mL), dried over anhydrous MgSO4, filtered and concentrated in vacuo. Purification of the product by trituration and filtration from MeOH afforded the title compound as a white solid (105 mg, 62%). Rf: 0.20 (5% methanol in dichloromethane); 1H-NMR (CDCl3, 300 MHz): δ 8.10 (2H, d, J=8 Hz, Ar—H), 7.80 (5H, m, Ar—H), 7.62 (1H, d, J=8 Hz, Ar—H), 7.48 (1H, d, J=8 Hz, Ar—H), 7.29 (6H, m, Ar—H), 4.26 (2H, s, PhCH2), 3.86 (2H, t, J=6 Hz), 2.86 (2H, t, J=6 Hz); ESI-LCMS e/z calcd for C31H24O4: 460.527, found 461 (M+H)+.

reactant | Hydrochloric acid | 2N, 1 mL | Cl | ClH
reactant | 5-{2-[4′-(2-benzyl-benzofuran-3-yl)-biphen-4-yl]-2-oxoethyl}-2,2-dimethyl-[1,3]-dioxane-4,6-dione | 0.36 mmol, 200 mg | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C3=CC=C(C=C3)C(CC3C(OC(OC3=O)(C)C)=O)=O)C=C1)C=CC=C2 | C35H28O6
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-[4′-(2-benzylbenzofuran-3-yl)biphen-4-yl]-4-oxobutyric acid | 105 mg, 62% | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C3=CC=C(C=C3)C(CCC(=O)O)=O)C=C1)C=CC=C2 | C31H24O4
